US05859007
To a solution of 3.04 g (19.2 mmol) of 2-allyl-2-methyl malonic acid, prepared as in Part A, in 50 mL of DCM at 0° C. is added 7 mL of DMF, followed by 6.7 mL (76.8 mmol) of oxalyl chloride. The resulting solution is stirred 1 h at RT, then the solvent and excess oxalyl chloride is removed in vacuo. The residue is dissolved in 100 mL of THF and added dropwise to a stirring solution of 5.0 g (16.0 mmol) of N-Isopropyl-N-(4-methoxy-phenyl)-2-phenylamino acetamide, prepared as in Intermediate 44, in 300 mL of THF maintained at 0° C. The resulting mixture is stirred at RT for 30 min then refluxed for 16 h. The solvents were removed in vacuo and the residue poured into 200 mL of 1H HCl and extracted with EtOAc (2×100 mL). The organics were washed with NaHCO3 (1×100 mL), brine (1×100 mL), dried over MgSO4, and the solvent removed in vacuo. Purification of the brown oil by silica gel flash column chromatography using hexane/EtOAc 1/1 as eluent afforded 4.0 g of 2-(3-Allyl-3-methyl-2,4-dioxo-2,3,4,5-tetrahydro benzo[b][1,4]diazepin-1-yl)-N-isopropyl-N-(4-methoxyphenyl) acetamide: 1H NMR (CDCl3, 300 MHz) δ9.53 (s, 1H), 7.27-6.85 (m, 8H), 5.67-5.60 (m, 1H), 5.05-4.93 (m, 2H), 4.73 (d, 1H, J=17), 4.50-4,45 (d, 1H, J=16), 3.77 (s, 3H), 3.60 (d, 1H, J=17), 2.1 (s, 1H), 1.46 (s, 2H), 1.09-1.03 (m, 6H).

reactant | 2-allyl-2-methyl malonic acid | 19.2 mmol, 3.04 g | C(C=C)C(C(=O)O)(C(=O)O)C | C7H10O4
reactant | DMF | 7 mL | CN(C)C=O | C3H7NO
reactant | oxalyl chloride | 76.8 mmol, 6.7 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N-Isopropyl-N-(4-methoxy-phenyl)-2-phenylamino acetamide | 16.0 mmol, 5.0 g | C(C)(C)N(C(CNC1=CC=CC=C1)=O)C1=CC=C(C=C1)OC | C18H22N2O2
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
solvent | THF | 300 mL | C1CCOC1 | C4H8O
product | 2-(3-Allyl-3-methyl-2,4-dioxo-2,3,4,5-tetrahydro benzo[b][1,4]diazepin-1-yl)-N-isopropyl-N-(4-methoxyphenyl) acetamide | 4.0 g | C(C=C)C1(C(NC2=C(N(C1=O)CC(=O)N(C1=CC=C(C=C1)OC)C(C)C)C=CC=C2)=O)C | C25H29N3O4
